US06812250B2
c) Ethyl 4-{4-chloro-3-[3-(2-chlorobenzoyl)ureido]benzoylamino}piperidine-1-carboxylate
100 mg (0.28 mmol) of 4-chloro-3-[3-(2-chlorobenzoyl)ureido]benzoic acid, 93 mg (0.28 mmol) of TOTU and 37 mg (0.28 mmol) of diisopropylethylamine were coupled in 1 ml of dimethylformamide. The reaction solution was washed once each with 5% strength sodium bicarbonate solution and 10% strength citric acid solution, and the organic phase was dried and concentrated.

reactant | 4-chloro-3-[3-(2-chlorobenzoyl)ureido]benzoic acid | 0.28 mmol, 100 mg | ClC1=C(C=C(C(=O)O)C=C1)NC(=O)NC(C1=C(C=CC=C1)Cl)=O | C15H10Cl2N2O4
reactant | TOTU | 0.28 mmol, 93 mg | [B-](F)(F)(F)F.CCOC(=O)C(=NOC(=[N+](C)C)N(C)C)C#N
reactant | diisopropylethylamine | 0.28 mmol, 37 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | Ethyl 4-{4-chloro-3-[3-(2-chlorobenzoyl)ureido]benzoylamino}piperidine-1-carboxylate | ClC1=C(C=C(C(=O)NC2CCN(CC2)C(=O)OCC)C=C1)NC(=O)NC(C1=C(C=CC=C1)Cl)=O | C23H24Cl2N4O5
